US09376422B2
Step 3: Synthesis of methyl 5-[ethyl(oxan-4-yl)amino]-4-methylpyridine-3-carboxylate
To a stirred solution of methyl 4-methyl-5-[(oxan-4-yl)amino]pyridine-3-carboxylate (600 mg, 2.40 mmol) in DCE (20 ml) under a nitrogen atmosphere was added acetaldehyde (1.07 ml, 19.2 mmol) followed by trifluoroacetic acid (367 μl, 4.79 mmol) and the reaction was left to stir for 5 min before the addition of sodium triacetoxyborohydride (3.05 g, 14.4 mmol). The reaction was stirred for 16 h at room temperature after which time more acetaldehyde (500 μl) and sodium triacetoxyborohydride (1.0 g) were added and the reaction stirred for a further 16 h. Distilled water (20 ml) was added and solid NaHCO3 was added until pH8. The phases were separated and then the aqueous phase was washed with DCM (2×50 ml), the combined organics were washed with brine (50 ml), dried using Na2SO4, filtered and evaporated. The residue was purified using a 25 g Isolute silica column using a gradient of 0% to 50% EtOAc in heptane to afford the title compound as a pale yellow oil (418 mg, 60%). LC-MS 96%, m/z=279.1, 1H NMR (500 MHz, Chloroform-d) δ 8.76 (s, 1H), 8.44 (s, 1H), 3.97 (d, J=11.0 Hz, 2H), 3.93 (s, 3H), 3.33 (td, J=11.6, 2.1 Hz, 2H), 3.13 (q, J=7.1 Hz, 2H), 3.04 (tt, J=10.9, 4.0 Hz, 1H), 2.54 (s, 3H), 1.76-1.59 (m, 4H), 0.89 (t, J=7.1 Hz, 3H).

reactant | methyl 4-methyl-5-[(oxan-4-yl)amino]pyridine-3-carboxylate | 2.40 mmol, 600 mg | CC1=C(C=NC=C1NC1CCOCC1)C(=O)OC | C13H18N2O3
reactant | acetaldehyde | 19.2 mmol, 1.07 ml | C(C)=O | C2H4O
reactant | trifluoroacetic acid | 4.79 mmol, 367 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 14.4 mmol, 3.05 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 500 μl | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 20 ml | ClCCCl | C2H4Cl2
solvent | water | 20 ml | O | H2O
product | methyl 5-[ethyl(oxan-4-yl)amino]-4-methylpyridine-3-carboxylate | 418 mg, 60% | C(C)N(C=1C(=C(C=NC1)C(=O)OC)C)C1CCOCC1 | C15H22N2O3
